data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_619322_1,[C:1]([N:2]([H:10])[H:11])([N:3]([H:12])[H:13])([N:4]([H:9])[H:14])/[N:6]=[N:7]\[O:5][H:8]>>[C:1]([N:2]([H:10])[H:11])([N:4]([H:9])[H:14])=[N:6][N:7]([N:3]([H:12])[H:13])[O:5][H:8],63.74019500001111
MR_316991_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([O:8][H:11])=[O:9])([C:5]([C:3]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])[O:7][H:10]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:5](/[C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([O:8][H:11])=[O:9])([H:18])[H:19])[O:7][H:10],73.07802250001274
MR_622797_1,[N:1]([C:2]([C:4](=[O:7])[H:10])=[O:5])([C:3](=[O:6])[H:9])[H:8]>>[N:1]([C:2]([C:3](=[O:6])[H:9])=[O:5])([C:4](=[O:7])[H:10])[H:8],64.9155025000043
MR_469967_0,[C@@:1]([C:2](=[C:4]([H:12])[H:13])[O:6][H:8])([N:3]([H:10])[H:11])([O:5][H:7])[H:9]>>[C@:1]1([N:3]([H:10])[H:11])([H:9])[C:2]([O:5][H:7])([O:6][H:8])[C:4]1([H:12])[H:13],54.62701250004869
MR_233368_2,[C@:1]12([C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[C@@:6]([C:4]([H:16])([H:17])[H:18])([H:10])[C@@:5]1([O:8][H:9])[O:7]2>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:10])[C:2]([H:11])([H:12])[C:6]([C:4]([H:16])([H:17])[H:18])=[C:5]([O:8][H:9])[O:7]1,40.37397750000821
MR_78626_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([H:10])[H:11])(/[C:4](=[C:5](/[C:6](=[C:7]([H:18])[H:19])[H:14])[H:13])[H:12])[O:8][H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[C:5]([N:3]([H:10])[H:11])([C:6](=[C:7]([H:18])[H:19])[H:14])[H:13])[H:12])[O:8][H:9],68.62151750002852
MR_247782_1,[C:1](/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[N:4]([C:7]([C:3]([H:18])([H:19])[H:20])=[C:8]([H:21])[H:22])[H:11])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:6]1([C:2]([H:15])([H:16])[H:17])[N:4]([H:11])[C:7]1([C:3]([H:18])([H:19])[H:20])[C:8]([H:10])([H:21])[H:22])=[O:9])([H:12])([H:13])[H:14],29.1153724999694
MR_379443_1,[C:1]1([H:11])([H:12])[C:4](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])([N:6]([H:9])[H:10])[O:7]1>>[C:1]1([H:11])([H:12])[N:3]([H:8])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:6]([H:9])[H:10])[O:7]1,49.60575750002789
MR_320212_0,[C:1](/[C:3](=[C:2](/[O:6][H:8])[H:9])[H:10])(=[C:4]([H:11])[H:12])[O:5][H:7]>>[C:1]1([O:5][H:7])=[C:3]([H:10])[C@@:2]([O:6][H:8])([H:9])[C:4]1([H:11])[H:12],37.013715000038445
MR_504510_2,[C:1](/[C:2]([N:3]([H:10])[H:11])=[N:7]/[O:6][H:8])([N:4]([H:13])[H:14])([N:5]([H:12])[H:15])[H:9]>>[C:1]1([N:5]([H:12])[H:15])([H:9])[C:2]([N:3]([H:10])[H:11])([N:4]([H:13])[H:14])[N:7]1[O:6][H:8],68.15716749998813
MR_529716_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3](/[C:4](=[N:6]/[H:8])[H:9])[O:5][H:7])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:6](/[C:4](=[N:3]/[O:5][H:7])[H:9])[H:8])([H:10])[H:11],65.42628749996311
MR_360720_0,[C:1](/[C:2](=[C:5](/[C:4]([H:19])([H:20])[H:21])[O:9][H:13])[N:7]([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[O:8][H:10]>>[C:1]([C:2]([C:5]([C:4]([H:19])([H:20])[H:21])=[O:9])([N:7]([H:14])[H:15])[H:11])([C:3]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[O:8][H:10],37.15615749999984
MR_415362_1,[C:1](/[N:2]=[C:4](\[N:5]([H:9])[H:10])[C:6]1([H:11])[C:3](=[C:7]([H:15])[H:16])[O:8]1)([H:12])([H:13])[H:14]>>[C:1]([N:2]1[C:3](=[C:7]([H:15])[H:16])[O:8][C:6]([H:11])=[C:4]1[N:5]([H:9])[H:10])([H:12])([H:13])[H:14],54.652740000019406
MR_222990_1,[C:1]1([H:9])([H:10])[C:5](=[O:8])[C:2]([H:11])([H:12])[C:6]([C:3]([H:13])([H:14])[H:17])=[C:7]1[C:4]([H:15])([H:16])[H:18]>>[C:1]1([H:9])([H:10])[C:5]([O:8])[C@@:7]1([C:4]([H:15])([H:16])[H:18])[C:6](=[C:2]([H:11])[H:12])[C:3]([H:13])([H:14])[H:17],70.21850500002714
MR_234245_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](\[C:3]([H:16])([H:17])[H:18])[H:12])[O:8][H:10])([O:6][O:7][H:9])[H:11]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](\[C:5]([C:3]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[H:12])[O:8][H:10])[H:11],53.43099749996512
MR_394398_1,[C@:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]\[C:2]([H:12])([H:13])[H:14])([N:5]([H:10])[H:11])([O:6][H:8])[H:9]>>[C@@:1]1([N:5]([H:10])[H:11])([H:9])[C@@:4]([C:3]([H:15])([H:16])[H:17])([O:6][H:8])[N:7]1[C:2]([H:12])([H:13])[H:14],54.46888249998423
MR_176928_0,[C:1]([C:6]([C:2]([H:15])([H:16])[H:17])=[C:5]([C:8](=[C:7]([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])[H:11])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:6]1([C:2]([H:15])([H:16])[H:17])[C:5]([O:9][H:10])=[C:8]([H:11])[C:7]1([C:3]([H:18])([H:19])[H:23])[C:4]([H:20])([H:21])[H:22])([H:12])([H:13])[H:14],45.85016999995048
MR_650252_1,[C:1]1([C:6]([H:22])([H:23])[H:24])([N:9]([H:10])[H:11])[C:3]([H:14])([H:15])[N:8]([C:5]([H:19])([H:20])[H:21])[C:2]([H:12])([H:13])[N:7]1[C:4]([H:16])([H:17])[H:18]>>[C:1](\[C:3]([N:8]([C:2]([N:7]([C:4]([H:16])([H:17])[H:18])[H:11])([H:12])[H:13])[C:5]([H:19])([H:20])[H:21])([H:14])[H:15])([C:6]([H:22])([H:23])[H:24])=[N:9]/[H:10],50.91785999999672
MR_392566_0,[C:1]([N:2]([C:4](=[O:8])[H:13])[H:11])([C:3]([O:6][H:10])=[O:7])([O:5][H:9])[H:12]>>[C:1]([N:2]([C:4]([C:3]([O:6][H:10])=[O:7])([O:8][H:9])[H:13])[H:11])(=[O:5])[H:12],73.30706000004085
